US05153217
Into a solution of 200 g (0.58 mol) of methoxymethyltriphenylphosphonium chloride in 1.5 liter of tetrahydrofuran, was added dropwise 220 ml of a tetrahydrofuran solution (2.01 mol concentration) containing 0.44 mol of lithium diisopropylamide under stirring and cooling with ice. After one-hour stirring at room temperature, 400 ml of a tetrahydrofuran solution of 57.6 g (0.38 mol) of methyl 4-formylpyrrole-2-carboxylate was added to the mixture at 5° to 8° C. under cooling with ice. The reaction was carried out for one hour at room temperature, and the reaction mixture was added with water and extracted with ethyl acetate. The organic layer was collected, washed with a saturated solution of sodium chloride, dried over anhydrous magnesium sulfate and evaporated to obtain a residue. The residue was purified by a silica-gel column chromatography (eluent:ethyl acetate/hexane=1/4) to obtain 34.4 g of methyl 4-methoxyvinylpyrrole-2-carboxylate as a mixture of E-isomer and Z-isomer. The yield was 50%.

reactant | methoxymethyltriphenylphosphonium chloride | 0.58 mol, 200 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium diisopropylamide | 0.44 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-formylpyrrole-2-carboxylate | 0.38 mol, 57.6 g | C(=O)C=1C=C(NC1)C(=O)OC | C7H7NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.01 mol, 220 ml | O1CCCC1 | C4H8O
product | methyl 4-methoxyvinylpyrrole-2-carboxylate | 34.4 g, yield was 50% | COC=CC=1C=C(NC1)C(=O)OC | C9H11NO3
